US04925863
1-(2,4-Difluorophenyl)-2-[3-(4-hydroxystyryl)-1,2,4-triazol-1-yl]-1-(1,2,4-triazol-1-ylmethyl)ethanol (710 mg) was dissolved in N-methylpyrrolidone (10 ml., dried over molecular sieve), and sodium hydride (57% dispersion in oil, 75 mg) was added in portions. When the evolution of hydrogen had ceased, p-chlorobenzyl chloride (300 mg) was added, and the mixture was stirred at 80° for 3 hours and then for 18 hours at room temperature. The reaction mixture was poured into 0.1N hydrochloric acid and extracted with ethyl acetate. The extracts were combined, washed successively with water, 0.5N sodium hydroxide solution (twice), water and brine, and was then filtered through anhydrous sodium sulphate. The filtrate was evaporated, and the crude product was purified by medium pressure liquid chromatography, eluting with chloroform, to give 2-[3-(4-p-chlorobenzyloxystyryl)-1,2,4-triazol-1-yl]-1-(2,4-difluorophenyl)-1-(1,2,4-triazol-1-ylmethyl)ethanol, crystallised from diethylether/ethyl acetate/petroleum ether, m.p. 103°-106°.

reactant | 1-(2,4-Difluorophenyl)-2-[3-(4-hydroxystyryl)-1,2,4-triazol-1-yl]-1-(1,2,4-triazol-1-ylmethyl)ethanol | 710 mg | FC1=C(C=CC(=C1)F)C(CN1N=C(N=C1)C=CC1=CC=C(C=C1)O)(O)CN1N=CN=C1 | C21H18F2N6O2
reactant | sodium hydride | 75 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | p-chlorobenzyl chloride | 300 mg | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | hydrochloric acid | 0.1N | Cl | ClH
solvent | N-methylpyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
product | 2-[3-(4-p-chlorobenzyloxystyryl)-1,2,4-triazol-1-yl]-1-(2,4-difluorophenyl)-1-(1,2,4-triazol-1-ylmethyl)ethanol | ClC1=CC=C(COC2=CC=C(C=CC3=NN(C=N3)CC(O)(CN3N=CN=C3)C3=C(C=C(C=C3)F)F)C=C2)C=C1 | C28H23ClF2N6O2
